US09328279B2
Synthesis of 2,3-Dihydroxypropyldodecyldimethylammonium chloride:
In a 2 L reactor system 638.06 g of dimethyldodecyl amine (97.6%, 2.92 moles) is added to 603.91 g distilled water. The solution is heated to 30° C. and 21.21 g sodium hydroxide (50%) is added. Over 30 minutes 353.49 g 3-chloro-1,2-dihydroxypropane (99.3%, 3.18 moles) is added while the reaction solution is being mixed with a mechanical stirrer. The reaction solution is mixed at 30° C. for 90 minutes and then the temperature is gradually increased to 40° C. over 45 minutes. The temperature is then increased over the next hour to 55° C. The solution turned from a semi-opaque white to clear. The solution is held at 55° C. for two hours; after one hour the solution is getting more viscous so 135.48 g distilled water is added. The solution is allowed to cool to room temperature and stirred overnight. The solution had become too viscous for the stirrer to operate so 150.59 g distilled water is added and the temperature is increased to 45° C. The solution is allowed to cool to room temperature and 46.59 g trimethylamine (43.6%) is added and mixed for two hours. The solution is allowed to stand without mixing or heating for 60 hours. The solution is then heated to 40° C. and the pH is adjusted to 10 and purged with nitrogen until the residual trimethylamine hydrochloride is less than 20 ppm. The pH is then decreased to 6.5 with concentrated hydrochloric acid. The isolated product has the following structure:

reactant | dimethyldodecyl amine | 2.92 moles, 638.06 g | CN(CCCCCCCCCCCC)C | C14H31N
reactant | 3-chloro-1,2-dihydroxypropane | 3.18 moles, 353.49 g | ClCC(CO)O | C3H7ClO2
product | 2,3-Dihydroxypropyldodecyldimethylammonium chloride | [Cl-].OC(C[N+](C)(C)CCCCCCCCCCCC)CO | InChI=1S/C17H38NO2.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-18(2,3)15-17(20)16-19;/h17,19-20H,4-16H2,1-3H3;1H/q+1;/p-1
